US07741352B2
4-(4-Bromo-benzylamino)-2-hydroxy-benzoic acid methyl ester
To a solution of 4-amino-2-hydroxy benzoic acid methyl ester (836 mg; 5 mmol) and 4-bromobenzaldehyde (926 mg; 5 mmol) in 1 M HOAc in 1,2-dichloroethane (5 mL) was added at once NaBH(OAc)3 (1.49 g; 7 mmol) and the reaction mixture was stirred at room temperature overnight. Water (25 mL) was added and the inhomogeneous mixture was neutralized using solid NaHCO3. The organic layer was isolated, dried, evaporated to dryness and recrystallised from isopropyl ether/dichloromethane/heptane to yield 970 mg (58%) of a yellow solid. NMR and GC-MS in accordance with structure.

reactant | 4-amino-2-hydroxy benzoic acid methyl ester | 5 mmol, 836 mg | COC(C1=C(C=C(C=C1)N)O)=O | C8H9NO3
reactant | 4-bromobenzaldehyde | 5 mmol, 926 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | NaBH(OAc)3 | 7 mmol, 1.49 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 1 M | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | Water | 25 mL | O | H2O
product | 4-(4-Bromo-benzylamino)-2-hydroxy-benzoic acid methyl ester | 970 mg, 58% | COC(C1=C(C=C(C=C1)NCC1=CC=C(C=C1)Br)O)=O | C15H14BrNO3
